US06313132B1
(R)-N,N-Diisopropyl-3-(5-formyl-2-hydroxyphenyl)-3-phenylpropanamine hydrochloride
Hydrogen chloride in diethyl ether was added to a solution of (R)-N,N-diisopropyl-3-(5-formyl-2-hydroxyphenyl)-3-phenylpropanamine (0.81 g, 2.4 mmol) in diethyl ether and 2-propanol. Crystals were filtered to yield 0.4 g (45%); mp 178-179° C. [α]Hg=−40° (c 1.1 in methanol). 1H NMR (DMSO-d6) δ1.16 (d, 3H), 1.20 (d, 3H), 1.24 (d, 3H), 1.27 (d, 3H), 2.54 (m, 2H), 2.84 (m, 1H), 2.97 (m, 1H), 3.58 (br, 2H), 4.38 (t, 1H), 7.08 (d, 1H), 7.22 (t, 1H), 7.32 (m,4H), 7.65 (dd, 1H), 7.83 (d, 1H), 9.80 (s, 1H), 9.86 (br, 1H) 10.99 (s, 1H). Anal. (C22H29NO2.HCl) H, N; C: calcd, 70.3; found, 70.8.

reactant | Hydrogen chloride | Cl | ClH
reactant | (R)-N,N-diisopropyl-3-(5-formyl-2-hydroxyphenyl)-3-phenylpropanamine | 2.4 mmol, 0.81 g | C(C)(C)N(CC[C@H](C1=CC=CC=C1)C1=C(C=CC(=C1)C=O)O)C(C)C | C22H29NO2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | 2-propanol | CC(C)O | C3H8O
solvent | methanol | CO | CH4O
product | (R)-N,N-Diisopropyl-3-(5-formyl-2-hydroxyphenyl)-3-phenylpropanamine hydrochloride | Cl.C(C)(C)N(CC[C@H](C1=CC=CC=C1)C1=C(C=CC(=C1)C=O)O)C(C)C | InChI=1S/C22H29NO2.ClH/c1-16(2)23(17(3)4)13-12-20(19-8-6-5-7-9-19)21-14-18(15-24)10-11-22(21)25;/h5-11,14-17,20,25H,12-13H2,1-4H3;1H/t20-;/m1./s1
